US05500413
BocCys(Acm)ONp is prepared from BocCys(Acm)OH (Novabiochem, Laufelingen, CH) and p-nitrophenol by reaction with N,N'-dicyclohexylcarbodiimide (DCC) in etyl acetate and used without purification for the preparation of Boc-Cys(Acm)-Pro-OH (XII) by reacting it with H-Pro-OH in DMF/etyl acetate/H2O at 0° C. while keeping pH neutral by addition of Et3N. Yield 81%. Purity>95% (TLC).

reactant | BocCys(Acm)OH | N([C@@H](CSCNC(=O)C)C(=O)O)C(=O)OC(C)(C)C | C11H20N2O5S
reactant | p-nitrophenol | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | N,N'-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | etyl acetate | C(C)(=O)OCC | C4H8O2
product | BocCys(Acm)ONp | Yield 81% | N([C@@H](CSCNC(=O)C)C(=O)OC1=CC=C([N+](=O)[O-])C=C1)C(=O)OC(C)(C)C | C17H23N3O7S
